US05646308
10 ml of concentrated sulfuric acid was heated at 40° C. and 760 mg of sodium nitrite acid was added therein. Then, the reaction solution was cooled to room temperature and 20 ml of an acetic acid solution of 2.0 g of 6-amino-4-cyano-2,2-bis(fluoromethyl)-2H-1-benzopyran was added therein. The reaction solution was dropped into 12 ml of an aqueous hydrobromic acid solution of cuprous bromide prepared in advance from 4.2 g of copper (II) sulfate pentahydrate, 2.6 g of sodium bromide and 1.1 g of sodium sulfite under ice-cooling. The resultant mixture was heated to room temperature and stirred for 1 hour. Water was added therein and the mixture was extracted with methylene chloride. An organic layer was washed with an aqueous 2N hydrochloric acid solution and an aqueous 1N sodium hydroxide solution and dried. The solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, AcOH:hexane=1:5) and recrystallized by a mixed solvent of ethyl acetate and hexane to obtain 690 mg of 6-bromo-4-cyano-2,2-bis(fluoromethyl)-2H-1-benzopyran with a melting point of 105°-107° C.

reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 760 mg | N(=O)[O-].[Na+]
reactant | 6-amino-4-cyano-2,2-bis(fluoromethyl)-2H-1-benzopyran | 2.0 g | NC=1C=CC2=C(C(=CC(O2)(CF)CF)C#N)C1 | C12H10F2N2O
reactant | hydrobromic acid | 12 ml | Br | BrH
reactant | sodium bromide | 2.6 g | [Br-].[Na+]
reactant | sodium sulfite | 1.1 g | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | copper (II) sulfate pentahydrate | 4.2 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | Water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-4-cyano-2,2-bis(fluoromethyl)-2H-1-benzopyran | 690 mg | BrC=1C=CC2=C(C(=CC(O2)(CF)CF)C#N)C1 | C12H8BrF2NO
